US07109219B2
tert-Butyl 4-(3-carbamoylpropyl)piperidine-1-carboxylate
tert-Butyl 4-(3-ethoxycarbonylpropyl)piperidine-1-carboxylate (0.60 g, 2.0 mmol, the product of Production example 43-1) and formamide (0.27 ml, 6.7 mmol) were dissolved in N,N-dimethylformamide (1.0 ml); sodium ethoxide (0.095 g, 1.4 mmol) was added thereto while stirred and heated at 100° C.; the reaction mixture was stirred for 2 hours under nitrogen atmosphere. After cooled to room temperature, the reaction mixture was partitioned between water and ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (eluent; hexane-ethyl acetate=95:5 to 85:15). The title compound was obtained as a colorless oil (0.38 g, 1.4 mmol, 70%).

reactant | tert-Butyl 4-(3-ethoxycarbonylpropyl)piperidine-1-carboxylate | C(C)OC(=O)CCCC1CCN(CC1)C(=O)OC(C)(C)C | C16H29NO4
reactant | formamide | 6.7 mmol, 0.27 ml | C(=O)N | CH3NO
reactant | sodium ethoxide | 1.4 mmol, 0.095 g | [O-]CC.[Na+]
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-(3-carbamoylpropyl)piperidine-1-carboxylate | C(N)(=O)CCCC1CCN(CC1)C(=O)OC(C)(C)C | C14H26N2O3
